US03968116
5-Methyl-3-nitro-2-aminopyridine is reacted with trifluoroacetic anhydride to obtain 5-methyl-3-nitro-2-(trifluoroacetamido)pyridine, which when hydrogenated yields 6-methyl-1-hydroxy-2-(trifluoromethyl)-1H-imidazo(4,5-b)pyridine, m.p., 275°C.

reactant | 5-Methyl-3-nitro-2-aminopyridine | CC=1C=C(C(=NC1)N)[N+](=O)[O-] | C6H7N3O2
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 5-methyl-3-nitro-2-(trifluoroacetamido)pyridine | CC=1C=C(C(=NC1)NC(C(F)(F)F)=O)[N+](=O)[O-] | C8H6F3N3O3
